US09079873B2
Benzyl [(3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]carbamate (VI)
To (3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-aminium (2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoate (10.06 g, 22.32 mmol) was added 30 mL ethyl acetate. The resulting thick slurry was put on ice-bath and stirred for 80 min. HCl (1 M, 24.5 mL, 24.5 mmol) was slowly added during 25 min while the temperature was kept below 5° C. (pH aqueous phase: 1-2). The phases were separated and the organic phase was washed with 10 mL of water after which the aqueous phases were combined. Potassium carbonate (10.3 g, 73.78 mmol) was dissolved in 25 mL of water. MIBK (30 mL) and benzyl chloroformate (4.17 g, 23.22 mmol) were added at 20° C. The combined aqueous phases were added slowly over 15 min and the mixture was warmed at 30° C. for 25 min without stirring. The phases were separated and the organic phase washed with 10 mL water. The organic phase was evaporated until about 11 g was remaining. Water (40 mL) was added and evaporation was continued until about 25 g was remaining. The mixture was filtered and the isolated product was washed with iso-octane and then dried at 40° C. in vacuum oven overnight. After drying, the title product was isolated (6.54 g), HPLC-purity: 97.7% (area), 1H-NMR assay: 100%.

reactant | (3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-aminium (2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoate | 22.32 mmol, 10.06 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)[O-])CC1=CC=CC=C1.O[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)[NH3+]
reactant | HCl | 24.5 mmol, 1 M, 24.5 mL | Cl | ClH
reactant | Potassium carbonate | 73.78 mmol, 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 23.22 mmol, 4.17 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 25 mL | O | H2O
solvent | MIBK | 30 mL | CC(C)CC(=O)C | C6H12O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | Benzyl [(3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]carbamate | O[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(OCC2=CC=CC=C2)=O | C16H21NO5
